US08536157B2
A solution of 3-hydroxy-4-methoxyacetophenone (0.070 g, 0.421 mmol), (benzo[c][1,2,5]oxadiazol-5-yl)methoxyamine hydrochloride (0.126 g, 0.625 mmol) and pyridine (0.16 ml, 1.98 mmol) in ethanol (6 ml) was stirred at reflux under nitrogen for 4 h and cooled to room temperature. The solution was concentrated to a yellow oil which was diluted with water. The resultant suspension was extracted with dichloromethane (×3). The combined organic phases were washed with water, dried over magnesium sulphate, filtered and concentrated to a yellow oil. The crude product was purified by column chromatography (SiO2), eluting with 8:2 petrol/ethyl acetate, to give a slightly sticky solid which was further triturated with petroleum spirit (40-60°), to give 1-(3-hydroxy-4-methoxyphenyl)ethanone-O -[(benzo[c][1,2,5]oxadiazol-5-yl)methyl]oxime (CP9-33) as a light yellow solid (0.119 g, 90%).

reactant | 3-hydroxy-4-methoxyacetophenone | 0.421 mmol, 0.070 g | CC(=O)C1=CC(=C(C=C1)OC)O | C9H10O3
reactant | (benzo[c][1,2,5]oxadiazol-5-yl)methoxyamine hydrochloride | 0.625 mmol, 0.126 g | Cl.N=1ON=C2C1C=CC(=C2)CON
reactant | pyridine | 1.98 mmol, 0.16 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-(3-hydroxy-4-methoxyphenyl)ethanone-O -[(benzo[c][1,2,5]oxadiazol-5-yl)methyl]oxime | 0.119 g, 90% | N=1ON=C2C1C=CC(=C2)CON=C(C)C2=CC(=C(C=C2)OC)O | C16H15N3O4
